US07723538B2
4-[3-(5-Isoxazol-3-yl-thiophene-2-sulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=468.1 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 5-isoxazol-3-yl-thiophene-2-sulfonyl chloride and yielded 4-[3-(5-isoxazol-3-yl-thiophene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(5-Isoxazol-3-yl-thiophene-2-sulfonylamino)-benzoylamino]-benzoic acid | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1 | C21H15N3O6S2
reactant | 5-isoxazol-3-yl-thiophene-2-sulfonyl chloride | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
product | 4-[3-(5-isoxazol-3-yl-thiophene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C=1SC(=CC1)C1=NOC=C1)=O)=O | C23H19N3O6S2
